US08183380B2
rac-1-[2-(4,6-dichloro-7-methoxy-indan-1-ylamino)-quinolin-6-yl]-3-(1-methyl-piperidin-4-yl)-urea
The title compound was prepared in accordance with the general method 4 described in example 16 from rac-N2-(4,6-dichloro-7-methoxy-indan-1-yl)-quinoline-2,6-diamine, bis(trichloromethyl) carbonate and 1-methyl-piperidin-4-ylamine; MS: m/e=515.7 (M+H+).

reactant | rac-N2-(4,6-dichloro-7-methoxy-indan-1-yl)-quinoline-2,6-diamine | ClC1=C2CCC(C2=C(C(=C1)Cl)OC)NC1=NC2=CC=C(C=C2C=C1)N | C19H17Cl2N3O
reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 1-methyl-piperidin-4-ylamine | CN1CCC(CC1)N | C6H14N2
product | rac-1-[2-(4,6-dichloro-7-methoxy-indan-1-ylamino)-quinolin-6-yl]-3-(1-methyl-piperidin-4-yl)-urea | ClC1=C2CCC(C2=C(C(=C1)Cl)OC)NC1=NC2=CC=C(C=C2C=C1)NC(=O)NC1CCN(CC1)C | C26H29Cl2N5O2
